US08492414B2
3-(4-Benzyloxyphenyl)-[1,2,4]thiadiazole-5-carboxylic acid ethyl ester
To a solution of 5-(4-benzyloxyphenyl)-[1,3,4]oxathiazol-2-one (0.31 g, 1.08 mmol) in 1,2-dichlorobenzene (2 ml) was added ethyl cyanoformate (0.43 ml, 4.35 mmol). The resulting reaction mixture was refluxed overnight at 150° C. After the completion of the reaction (TLC monitoring), added ice-cold water and extracted with ethyl acetate (3×50 ml). The combined organic layer was dried over Na2SO4, filtered and concentrated under vacuum, to get the product (0.250 g, 65%). MS ES+ (341.12).

reactant | 5-(4-benzyloxyphenyl)-[1,3,4]oxathiazol-2-one | 1.08 mmol, 0.31 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1=NSC(O1)=O | C15H11NO3S
reactant | ethyl cyanoformate | 4.35 mmol, 0.43 ml | C(#N)C(=O)OCC | C4H5NO2
solvent | 1,2-dichlorobenzene | 2 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 3-(4-Benzyloxyphenyl)-[1,2,4]thiadiazole-5-carboxylic acid ethyl ester | 0.250 g, 65% | C(C)OC(=O)C1=NC(=NS1)C1=CC=C(C=C1)OCC1=CC=CC=C1 | C18H16N2O3S
